US04015002
22.9 g (0.1 mol) of 1-(4-hydroxyphenyl)-2-oxo-2,4,5,6,7,7a-hexahydro-indole were dissolved, as in Example 4, in a solution of 0.1 mol of potassium tertiary-butoxide in 100 cm3 of tertiary-butanol, and then reacted with 18 g (0.11 mol) of 2-diisopropylamino-1-chloroethane. After conventional treatment of the reaction product, and crystallization from heptane, 27 g (yield 76%) of 1-[4-(2-diisopropyaminoethoxy)-phenyl]-2-oxo-2,4,5,6,7,7a-hexahydro-indole were obtained; m.p. 86° C.

reactant | 1-(4-hydroxyphenyl)-2-oxo-2,4,5,6,7,7a-hexahydro-indole | 0.1 mol, 22.9 g | OC1=CC=C(C=C1)N1C(C=C2CCCCC12)=O | C14H15NO2
reactant | potassium tertiary-butoxide | 0.1 mol | CC(C)([O-])C.[K+]
reactant | 2-diisopropylamino-1-chloroethane | 0.11 mol, 18 g | C(C)(C)N(CCCl)C(C)C | C8H18ClN
solvent | tertiary-butanol | 100 cm3 | C(C)(C)(C)O | C4H10O
product | 1-[4-(2-diisopropyaminoethoxy)-phenyl]-2-oxo-2,4,5,6,7,7a-hexahydro-indole | 27 g, yield 76% | C(C)(C)N(CCOC1=CC=C(C=C1)N1C(C=C2CCCCC12)=O)C(C)C | C22H32N2O2
